US06043365
A solution of 50.0 g of o-fluorophenylacetic acid in 150 mL of toluene and 2.2 g of N,N-dimethylformamide is added to 50.2 g (31.7 mL) of thionyl chloride with efficient stirring over a period of 20 minutes while maintaining an internal temperature of 20-25° C. After addition, the mixture is stirred for 3 hours at 20-25° C., and concentrated to dryness under reduced pressure (66-76 mm Hg, bath temperature 65-70° C.) to obtain 2-fluorobenzenacetyl chloride as an oil.

reactant | o-fluorophenylacetic acid | 50.0 g | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | N,N-dimethylformamide | 2.2 g | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 31.7 mL, 50.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluorobenzenacetyl chloride | FC1=C(C=CC=C1)CC(=O)Cl | C8H6ClFO
